US07884094B2
To a mixture of 4-ethyl-benzene-1,3-diol (a, 10 mmol) and naphthalen-2-yl-acetonitrile (b, 10 mmol) in boron trifluoride etherate (20 mL) was bubbled gaseous HCl for 12 h. The solids that formed were collected by filtration and heated in 6N HCl (100 mL) and EtOH (20 mL) for 6 h. The mixture was diluted with water and extracted with CH2Cl2. The organic extract was washed with water and dried. The oil obtained on concentration of the organic layer was crystallized in EtOAc/hexanes to give 1-(5-ethyl-2,4-dihydroxy-phenyl)-2-naphthalen-2-yl-ethanone (c, 0.74 g).

reactant | 4-ethyl-benzene-1,3-diol | C(C)C1=C(C=C(C=C1)O)O | C8H10O2
reactant | naphthalen-2-yl-acetonitrile | 10 mmol | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | boron trifluoride etherate | 20 mL | B(F)(F)F.CCOCC
product | 1-(5-ethyl-2,4-dihydroxy-phenyl)-2-naphthalen-2-yl-ethanone | 0.74 g | C(C)C=1C(=CC(=C(C1)C(CC1=CC2=CC=CC=C2C=C1)=O)O)O | C20H18O3
